US07432291B2
To a solution of 10.4 g (66.9 mmol) 1,3-dimethyl-pyrimidine-2,4,6-trione and 774 mg (0.67 mmol) tetrakis-(triphenylphosphine)-palladium in 100 ml dichloromethane was added dropwise a solution of 6.18 g (22.3 mmol) 1-[2-(4-allyloxy-2-fluoro-benzyloxy)-ethyl]-1H-[1,2,3]triazole in 30 ml dichloromethane and stirring was continued for 24 hours at 40° C. It was allowed to cool down over night. The reaction mixture was extracted with three 100 ml portions of sodium bicarbonate solution, the organic extract was dried, evaporated and purified by chromatography on silica (ethyl acetate/dichloromethane 3:7) to yield 2.97 g (56%) 3-fluoro-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol as oil.

reactant | 1,3-dimethyl-pyrimidine-2,4,6-trione | 66.9 mmol, 10.4 g | CN1C(N(C(CC1=O)=O)C)=O | C6H8N2O3
reactant | 1-[2-(4-allyloxy-2-fluoro-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 22.3 mmol, 6.18 g | C(C=C)OC1=CC(=C(COCCN2N=NC=C2)C=C1)F | C14H16FN3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.67 mmol, 774 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-fluoro-4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 2.97 g, 56% | FC=1C=C(C=CC1COCCN1N=NC=C1)O | C11H12FN3O2
